US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 132)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 2.49 (s, 3H), 3.16-3.23 (m, 4H), 3.71-3.95 (m, 4H), 3.80 (s, 3H), 3.86 (s, 6H), 4.13 (s, 3H), 6.19 (s, 2H), 7.08-7.62 (m, 3H), 7.72 (d, J=8.6 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 91% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC | C24H29N5O5
